US04122274
8-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound (16% yield, m.p. 307° with decomposition) was prepared from ethyl 2-cyano-3-(4-methyl-2-pyridylamino)acrylate in a manner similar to that described for the preparation of 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one in Example 2.

reactant | ethyl 2-cyano-3-(4-methyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=CC(=C1)C | C12H13N3O2
reactant | 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]-pyrimidin-4-one | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
product | 8-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 16% yield | CC1=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C=C1 | C10H8N6O
